US05298527
Preparation of α-(2-methoxymethylphenyl)-β-methylacrylic chloride
At 0° to 5° C., 3.7 g of thionyl chloride was dripped into 4.9 g (24 mmol) of α-(2-methoxymethylphenyl)-β-methylacrylic acid and 2.5 g of pyridine in 40 ml of ether. The mixture was stirred or 3 hours at about 20° C. After filtration, the residue was washed with diethyl ether. The filtrate was combined with the ether phase. After removal of the solvent, there was obtained 5.2 g (96.5%) of the title compound as a colorless oil. The crude product can be used for further reactions without any additional purification.

reactant | thionyl chloride | 3.7 g | S(=O)(Cl)Cl | Cl2OS
reactant | α-(2-methoxymethylphenyl)-β-methylacrylic acid | 24 mmol, 4.9 g | COCC1=C(C=CC=C1)C(C(=O)O)=CC | C12H14O3
reactant | pyridine | 2.5 g | N1=CC=CC=C1 | C5H5N
solvent | ether | 40 ml | CCOCC | C4H10O
product | α-(2-methoxymethylphenyl)-β-methylacrylic chloride | 5.2 g, 96.5% | COCC1=C(C=CC=C1)C(C(=O)Cl)=CC | C12H13ClO2
